US08013186B2
To a solution of 4-fluorobromobenzene (0.589 ml, 5.36 mmol) in anhydrous THF (5 ml) at −78° C., under nitrogen, a solution of 2.5 M of BuLi in hexanes (2.1 ml, 5.36 mmol) was added. After stirring the reaction mixture for 1 h at −78° C., a solution of [2-(tert-butyldimethylsilanyloxy)-1(R)-cyclopropylmethylsulfanylmethylethyl]-[2,2-difluoro-2-(4-fluorophenoxy)ethylidene]amine (0.8 g, 1.78 mmol) in THF (5 ml) was added. After stirring for 2 h at −40° C., the reaction mixture was diluted with ethyl ether and the solution was washed with 10% ammonium chloride solution, brine and dried over sodium sulfate. Concentration under vacuum followed by column chromatography over silica gel with ethyl acetate/hexanes (1/10) gave [2-(tert-butyldimethylsilanyloxy)-1(R)-cyclopropylmethylsulfanylmethylethyl]-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)-ethyl]amine (0.75 g, 77%) as an oil.

reactant | 4-fluorobromobenzene | 5.36 mmol, 0.589 ml | FC1=CC=C(C=C1)Br | C6H4BrF
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | [2-(tert-butyldimethylsilanyloxy)-1(R)-cyclopropylmethylsulfanylmethylethyl]-[2,2-difluoro-2-(4-fluorophenoxy)ethylidene]amine | 1.78 mmol, 0.8 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CSCC1CC1)N=CC(OC1=CC=C(C=C1)F)(F)F | C21H32F3NO2SSi
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | [2-(tert-butyldimethylsilanyloxy)-1(R)-cyclopropylmethylsulfanylmethylethyl]-[2,2-difluoro-2-(4-fluorophenoxy)-1(S)-(4-fluorophenyl)-ethyl]amine | 0.75 g, 77% | [Si](C)(C)(C(C)(C)C)OC[C@H](CSCC1CC1)N[C@H](C(OC1=CC=C(C=C1)F)(F)F)C1=CC=C(C=C1)F | C27H37F4NO2SSi
